* =============================================================================
* power_core_load_step.cir
* TensorRail-Mini — 1.2 V FPGA Core Rail Load-Step Transient
* =============================================================================
*
* What this simulation proves
* ---------------------------
* When the ECP5 systolic array starts a tile computation it switches ~200 mA
* of additional dynamic current on the monitored 1.2 V core rail.  This file answers
* three bring-up questions:
*
*   1. Does the 1.2 V rail stay inside the ±5 % window (1.14 V – 1.26 V)
*      during the transient?
*   2. How quickly does the loop recover (target: < 50 µs)?
*   3. Is the peak inductor current within the 3 A rating of L2?
*
* Approach: behavioural average model
* ------------------------------------
* A switching regulator is modelled as a voltage-controlled voltage source
* (VCVS) acting as a proportional-integral error amplifier driving an
* average switch-node voltage.  This is the standard "behavioural average
* model" taught in Middlebrook & Ćuk (1976) and is accurate for frequencies
* well below Fsw/10 = 150 kHz for a 1.5 MHz switcher.  No vendor SPICE model
* is needed.  The model captures:
*   - DC regulation (Vout → Vfb = Vref via the resistor divider)
*   - Loop bandwidth and phase margin (set by the compensator pole/zero)
*   - Inductor current and output voltage ripple
*
* It does NOT capture:
*   - Switching noise / EMI
*   - Gate-drive losses
*   - Subharmonic oscillation (needs cycle-by-cycle model)
*
* Hardware mapping
* ----------------
*   Regulator  : TPS62130ARGTR  3 A synchronous buck, Fsw = 1.5 MHz
*   Vin        : 3.3 V  (output of U1 3.3 V buck on carrier)
*   Vout       : 1.2 V  (FPGA VCCCORE / VCCAUX rail)
*   Inductor   : L2  1.5 µH  Würth 744043150,  DCR ≈ 55 mΩ,  Isat = 3 A
*   Bulk cap   : C9  100 µF  Murata GRM32ER61A107ME20L,  ESR ≈ 5 mΩ
*   HF bypass  : C10 400 nF  (4 × 100 nF 0402 X7R),      ESR ≈ 12.5 mΩ
*   FB divider : R5 = 103 kΩ (top), R6 = 100 kΩ (bottom)
*     → Vfb = Vout × R6/(R5+R6) = 1.2 × 100/203 = 0.5911 V ≈ Vref = 0.590 V
*   Load       : ECP5-85F idle ≈ 50 mA; active 4×4 tile model ≈ 250 mA
*     → step magnitude: +200 mA in ~1 µs
*
* Run with ngspice (batch mode):
*   ngspice -b power_core_load_step.cir
*
* Or interactively:
*   ngspice power_core_load_step.cir
*
* Output: simulation/power_core_load_step.raw  (ngspice binary RAW format)
*   View with:  ngspice -b power_core_load_step.cir   (then open .raw)
*             or import into Python with: pip install PySpice
*             or open directly in KiCad's built-in waveform viewer.
* =============================================================================

.title TensorRail-Mini VCCCORE 1.2V Load-Step Transient

* ── Transient analysis ────────────────────────────────────────────────────────
* 20 ns timestep, 300 µs total.  The load step hits at t = 50 µs.
* Recovery should complete by ~100 µs; remainder shows steady-state ripple.
.tran 20n 300u 0 20n

* ── Supply rail ──────────────────────────────────────────────────────────────
* The 1.2 V core regulator is fed from the carrier's +3V3 rail generated by U1.
* USB-C VBUS and the D1 input diode are validated at the board level; this model
* starts at U2's input because it focuses on FPGA core-rail transient response.
Vin  vin  0  DC 3.3

* ── Feedback reference ───────────────────────────────────────────────────────
* TPS62130 internal bandgap reference: 590 mV (typical from datasheet §8.3).
Vref  vref  0  DC 0.590

* ── Feedback divider (R5 top = 103 kΩ, R6 bottom = 100 kΩ) ──────────────────
* Vfb = Vout × R6 / (R5 + R6) = Vout × 100k / 203k = Vout × 0.4926
* At Vout = 1.2 V: Vfb = 0.5911 V → error ≈ +1 mV from Vref  (< 0.2 % → OK)
*
* These are the actual BOM values (E96 series) from hardware/bom.csv.
* Changing R5 or R6 changes Vout; this is the first thing to verify on a new
* board (Phase 1, step 2 of docs/bringup_plan.md).
Rfbt  vout  vsense  103k    ; R5 top divider
Rfbb  vsense 0      100k    ; R6 bottom divider

* ── Compensator / error amplifier ────────────────────────────────────────────
* Type-II (PI + lead) compensator modelled as a Laplace-domain VCVS.
*
* Transfer function:   Gc(s) = Aol × (1 + s/ωz) / ( s × (1 + s/ωp2) )
*
*   Aol  = 1000  (60 dB open-loop gain, typical OTA)
*   ωz   = 2π × 30 kHz  zero (cancels LC double-pole at ~24 kHz)
*   1/s  = true integrating pole at DC (zero steady-state error)
*   ωp2  = 2π × 1 MHz   HF roll-off pole (above Fsw/2, for stability)
*
* Denominator form: s × (1 + s/ωp2)  — pure 1/s integrator times one HF pole.
* Using 3.14159265358979 for π for full double-precision accuracy.
*
* The LAPLACE keyword requires ngspice 36+ (XSpice Laplace block).
Eea  verr  0  LAPLACE { V(vref) - V(vsense) }
+    { 1000.0 * (1.0 + s/(2*3.14159265358979*30000))
+      / ( s * (1.0 + s/(2*3.14159265358979*1e6)) ) }

* ── Duty cycle: D = Verr clamped to [0.02, 0.95] ────────────────────────────
* In steady state D = Vout/Vin = 1.2/3.3 = 0.36.
* Clamp prevents the model from demanding impossible duty cycles during transients.
Eduty  duty  0  VALUE { MAX(0.02, MIN(0.95, V(verr) / 5.0)) }

* ── Average switch-node voltage ───────────────────────────────────────────────
* Vsw_avg = Vin × D  (first-order average model of the half-bridge)
* This is the key behavioural approximation: the switching waveform is replaced
* by its average, which is valid for f << Fsw/10 = 150 kHz.
Esw  vsw  0  VALUE { V(vin) * V(duty) }

* ── Output inductor: 1.5 µH, DCR ≈ 55 mΩ ───────────────────────────────────
* L2: Würth Elektronik 744043150.  Matches hardware/bom.csv and PCB footprint.
* Saturation current = 3 A; the .measure below checks iL_pk < 3 A.
L2   vsw   vil   1.5u
RL2  vil   vout  55m

* ── Output capacitor bank ────────────────────────────────────────────────────
*
* C9: 100 µF Murata GRM32ER61A107ME20L  (X5R, 1210 package)
*   ESR ≈ 5 mΩ  (measured at 100 kHz, Murata SimSurfing)
*   ESL ≈ 0.8 nH (estimated for 1210 via-mounted cap)
*
* Modelled as a series RLC branch to vout:
*   Cbulk in series with RCbulk (ESR) and LCbulk (ESL)
*
C_bulk   vout    vc_esr   100u
RC_bulk  vc_esr  vc_esl   5m
LC_bulk  vc_esl  0        800p

* C10: 4 × 100 nF 0402 X7R HF bypass caps placed close to FPGA balls.
*   Parallel combination: 400 nF total.
*   Parallel ESR: 50 mΩ / 4 = 12.5 mΩ per combined network.
*   These dominate the high-frequency (> 1 MHz) impedance of the rail.
*
C_hf   vout    vc_hf   400n
RC_hf  vc_hf   0       12.5m

* ── PCB parasitic path from regulator to FPGA VCCCORE balls ─────────────────
* Short 1.0 mm wide, 5 mm long power trace in 1 oz copper on 1.6 mm FR4.
*   R_trace ≈ 0.5 mΩ/sq × 5 sq = 2.5 mΩ  (negligible but included for realism)
*   L_via   ≈ 150 pH per via pair (standard 0.3 mm via in 1.6 mm FR4)
*
Lbrd  vout   vfpga   150p    ; via inductance
Rbrd  vfpga  vcore   2.5m    ; copper trace resistance
* vcore is the voltage at the FPGA VCCCORE pad — the node we care about.

* ── Load model: ECP5-85F VCCCORE current ─────────────────────────────────────
*
* Idle current (reset, PLL stable, no logic toggling):  Iidle  ≈  50 mA
*   Source: ECP5 datasheet §DC Characteristics, ICCCORE typical at fclk = 0.
*
* Active current (4×4 systolic array tile computation at 50 MHz):  Iactive ≈ 250 mA
*   This is an educational bring-up estimate for the small 4×4 fabric. Real
*   dynamic current depends on switching activity, operand values, and PVT corner.
*
* Load step:
*   t = 0 → 50 µs    : Iidle  = 50 mA  (post-reset settling)
*   t = 50 µs → 200 µs: Iactive = 250 mA (tile computation begins)
*   t = 200 µs → 300 µs: Iidle  = 50 mA  (tile done, array idle)
*   Rise/fall time   : 1 µs  (bench-load friendly edge for correlation)
*
* The 1 µs edge is intentionally slower than internal FPGA switching so that the
* model can be compared against a practical active-load bring-up test.

Idc    vcore  0  DC 0.050               ; quiescent 50 mA always present

Istep  vcore  0  PWL                    ; piecewise-linear load step
+    0n       0
+    50u      0
+    51u      0.200                     ; +200 mA in 1 µs  (0 → 50 µs idle, step at 50 µs)
+    200u     0.200
+    201u     0                         ; step off over 1 µs
+    300u     0

* ── Measurements ─────────────────────────────────────────────────────────────
* All measurements reference vcore (the FPGA-side node), not vout,
* to include PCB parasitic drop.

* Pre-step nominal voltage (average over a quiet 30 µs window)
.measure tran vcore_nom  AVG   V(vcore)  FROM=10u    TO=40u

* Worst-case undershoot after load step
.measure tran vcore_min  MIN   V(vcore)  FROM=50u    TO=80u

* Worst-case overshoot after load step removes
.measure tran vcore_max  MAX   V(vcore)  FROM=200u   TO=230u

* Steady-state regulated voltage under load
.measure tran vcore_ss   AVG   V(vcore)  FROM=150u   TO=195u

* Peak inductor current during transient
.measure tran iL_pk      MAX   I(L2)     FROM=50u    TO=80u

* Derived: undershoot and overshoot magnitudes
.measure tran undershoot PARAM { vcore_nom - vcore_min }
.measure tran overshoot  PARAM { vcore_max - vcore_nom }

* Settling time: first crossing back above 98 % of nominal after undershoot
* (1.176 V = 1.2 V × 0.98 = lower edge of ±2 % window)
.measure tran t_settle   WHEN V(vcore) = 1.176  CROSS = 2

* ── Pass / fail criteria ─────────────────────────────────────────────────────
* These thresholds map directly to Phase 1 of docs/bringup_plan.md.
*
*   undershoot < 60 mV  → vcore stays above 1.14 V  (ECP5 Vmin for VCCCORE)
*   overshoot  < 60 mV  → vcore stays below 1.26 V
*   t_settle   < 50 µs  → loop bandwidth adequate for 50 MHz tile cadence
*   iL_pk      < 3.0 A  → within L2 saturation current rating
*
* If any criterion fails in simulation, increase C9 (output bulk cap) or
* adjust compensator zero frequency (Eea above) before ordering PCBs.

* ── Solver options ────────────────────────────────────────────────────────────
* GEAR integration is more stable for stiff circuits (large L/C ratio).
* RELTOL = 1e-4 is tighter than the default (1e-3) to resolve < 1 mV features.
.options RELTOL=1e-4 ABSTOL=1e-9 VNTOL=1e-6
.options METHOD=GEAR
.options MAXSTEP=50n

* ── Probed signals ────────────────────────────────────────────────────────────
.probe tran V(vcore) V(vout) V(vsw) I(L2) V(duty)

* ── .control block ────────────────────────────────────────────────────────────
* The .control block is executed by ngspice's built-in interpreter after the
* netlist is read.  It:
*   1. Runs the transient analysis defined above.
*   2. Prints the .measure results to stdout for easy CI/CD parsing.
*   3. Writes the full waveform database to power_core_load_step.raw so that
*      the results can be inspected in a waveform viewer without re-running.
*
* To use interactively: ngspice power_core_load_step.cir
* To use in batch CI:   ngspice -b power_core_load_step.cir
*
.control

    * Run the transient simulation defined in the netlist section above.
    run

    * ── Print measured values ───────────────────────────────────────────────
    echo ""
    echo "=== TensorRail-Mini VCCCORE Load-Step Results ==="
    echo ""
    print vcore_nom
    print vcore_min
    print vcore_ss
    print undershoot
    print overshoot
    print t_settle
    print iL_pk
    echo ""

    * ── Pass/fail checks ────────────────────────────────────────────────────
    * ngspice's 'if' supports basic comparisons on measured values.
    * Threshold values match docs/bringup_plan.md Phase 1 criteria.
    if undershoot > 0.060
        echo "FAIL: undershoot exceeds 60 mV — rail dips below 1.14 V"
    else
        echo "PASS: undershoot < 60 mV"
    end

    if overshoot > 0.060
        echo "FAIL: overshoot exceeds 60 mV — rail exceeds 1.26 V"
    else
        echo "PASS: overshoot < 60 mV"
    end

    if t_settle > 50e-6
        echo "FAIL: settling time exceeds 50 µs"
    else
        echo "PASS: settling time < 50 µs"
    end

    if iL_pk > 3.0
        echo "FAIL: peak inductor current exceeds 3.0 A rating of L2"
    else
        echo "PASS: peak inductor current < 3.0 A"
    end

    echo ""

    * ── Save waveforms ──────────────────────────────────────────────────────
    * writefile writes the currently active plot (the tran1 result of 'run')
    * to an ngspice binary RAW file.  The path is relative to the working
    * directory from which ngspice is invoked.  Run from repo root:
    *   ngspice -b simulation/power_core_load_step.cir
    * produces simulation/power_core_load_step.raw.
    *
    * The RAW file can be opened with:
    *   - ngnutmeg  (ngspice companion viewer)
    *   - KiCad 7+ built-in SPICE viewer (File → Open → *.raw)
    *   - Python:  pip install PySpice; from PySpice.Spice.RawFile import RawFile

    write simulation/power_core_load_step.raw V(vcore) V(vout) I(L2) V(duty)

    echo "Wrote: simulation/power_core_load_step.raw"
    echo ""

.endc

.end
